US06355618B1
A mixture of phenyl 3-(2-phenyloxyphenyl)propionate (0.45 g, 1.30 mmol), 2N NaOH (20 ml) and MeOH (10 ml) was stirred at room temperature overnight, which was then neutralized to pH˜2 with concentrated HCl and extracted with EtOAc (100 ml). The organic phase was washed with brine and dried over sodium sulfate and concentrated in vacuo to yield 3-(2-phenyloxyphenyl)propionic acid as an oil. This was used for next step without further purification.

reactant | phenyl 3-(2-phenyloxyphenyl)propionate | 1.30 mmol, 0.45 g | C1(=CC=CC=C1)OC1=C(C=CC=C1)CCC(=O)OC1=CC=CC=C1 | C21H18O3
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 3-(2-phenyloxyphenyl)propionic acid | C1(=CC=CC=C1)OC1=C(C=CC=C1)CCC(=O)O | C15H14O3
